US07186714B2
3-(Benzyloxy)pyridin-2-amine (2.52 g, 13 mmol) and 2-bromo-1-(4-fluorophenyl)ethanone (2.73 g, 13 mmol) in ethanol (30 mL) were heated at 75° C. for 16 hours. The mixture was concentrated and the residue was purified by silica gel chromatography, eluting with dichloromethane and then 10% methanol in dichloromethane to yield 1.03 g (25%) of 8-(benzyloxy)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine. 1H NMR (CDCl3): δ 8.01 (dd, 2H), 7.82 (s, 1H), 7.78 (d, 1H), 7.55 (d, 2H), 7.41 (m, 3H), 7.14 (t, 2H), 6.65 (t, 1H), 6.48 (d, 1H), 5.44 (s, 2H); MS m/z 319 (M+1).

reactant | 3-(Benzyloxy)pyridin-2-amine | 13 mmol, 2.52 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)N | C12H12N2O
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 13 mmol, 2.73 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 8-(benzyloxy)-2-(4-fluorophenyl)imidazo[1,2-a]pyridine | 1.03 g, 25% | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)F | C20H15FN2O
